US05312830
Preparation of 4-(4'-iodophenoxy) Aniline
A solution of 6.04 ml (68.4 mmole) of concentrated hydrochloric acid in 25 ml of water and 25 ml of ethanol was added in a dropwise manner over 50 minutes to a mechanically stirred refluxing suspension of 23.34 g (68.4 mmole) of 4-(4'-iodophenoxy) nitrobenzene and 11.46 g (205 mmole, 3.0 equiv) of iron filings in 150 ml of water and 150 ml of ethanol. After 1 hour, the mixture was allowed to cool to room temperature and was evaporated to about 200 ml volume. The mixture was made alkaline to a pH of about 11 using 10% aqueous sodium hydroxide solution before adding 200 ml of water and 250 ml of ethyl acetate. The aqueous fraction was extracted twice with 50 ml of ethyl acetate and the combined organic phase was washed twice with 125 ml of water and 50 ml of brine, dried over MgSO4, filtered and evaporated to obtain 20.25 g of the desired product as a brown semi solid. Flash column chromatography (0-10% EtOAc/CH2Cl2 eluent) yielded 13.40 g (62.9%) of the product as pale brown crystals.

reactant | hydrochloric acid | 68.4 mmole, 6.04 ml | Cl | ClH
reactant | 4-(4'-iodophenoxy) nitrobenzene | 68.4 mmole, 23.34 g | IC1=CC=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C12H8INO3
solvent | water | 25 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | iron | 205 mmole, 11.46 g, 3.0 equiv | [Fe] | Fe
product | 4-(4'-iodophenoxy) Aniline | 20.25 g | IC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10INO
